* afe_ln open-loop AC (frozen straight choppers, gates driven, no feedback)
.lib /Users/noah/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include eeg_tg_lowq.spice
.include afe_ln_core_soft.spice
.include eeg_pseudo_res.spice
.include eeg_bias_gen.spice
.include afe_ln_ota_full2.spice
.param VDD=1.80 VCM=0.9
VDD_SRC VDD18 0 {VDD}
VREF VCM_REF 0 {VCM}
VPHI PHI 0 {VDD}
VPHIB PHIB 0 0
BNPHI NPHI 0 V={VDD}-v(PHI)
BNPHIB NPHIB 0 V={VDD}-v(PHIB)
VSIGP SIGP 0 DC {VCM} AC 0.5 0
VSIGN SIGN 0 DC {VCM} AC 0.5 180
CINP SIGP INP 32p
CINN SIGN INN 32p
RBIASP INP VCM_REF 1T
RBIASN INN VCM_REF 1T
XAFE INP INN VCM_REF OUTP OUTN PHI NPHI PHIB NPHIB PHI NPHI PHIB NPHIB VDD18 0 afe_ln_ota_chopped_full2 S1W={240} S1NF={24} S2W={12} S2NF={2} S2LW={48} S2LNF={8} RLOAD={20Meg} S1RLOAD={20Meg} S1RCM={5Meg} S2RCM={5Meg}
CLOADP OUTP 0 5p
CLOADN OUTN 0 5p
.control
set noaskquit
ac dec 50 0.01 100Meg
let g = mag(v(OUTP)-v(OUTN))
let p = 180/pi*ph(v(OUTP)-v(OUTN))
wrdata ../results/afe_ln_ol_vr.csv g p
quit
.endc
.end
